US07994331B2
Production of methyl 2-fluoro-4-nitrobenzoate
Concentrated sulfuric acid (5 ml) was added to a methanol (1300 ml) solution of 2-fluoro-4-nitrobenzoic acid (140 g), and heated under reflux for 48 hours. The solvent was evaporated away under reduced pressure, water was added to it, and the formed solid was taken out through filtration. After dried under reduced pressure, the entitled compound was obtained as a yellow solid.

reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-fluoro-4-nitrobenzoic acid | 140 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | methanol | 1300 ml | CO | CH4O
product | methyl 2-fluoro-4-nitrobenzoate | FC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6FNO4
